US04233128
Under the conditions of Example 3, with an input of 38 liters per hour of hydrogen sulphide, 67.7 mmoles of dodecene-1 dissolved in diglyme at a concentration of 0.564 mole per liter were irradiated at 11° C. After 3 minutes of irradiation, 48.2 mmoles of n-dodecyl mercaptan were formed.

reactant | hydrogen sulphide | S | H2S
reactant | dodecene-1 | 67.7 mmoles | CCCCCCCCCCC=C | C12H24
solvent | diglyme | COCCOCCOC | C6H14O3
product | n-dodecyl mercaptan | 48.2 mmoles | C(CCCCCCCCCCC)S | C12H26S
